US09290451B2
c) 6-[(4-Fluoro-phenyl)-hydroxy-methyl]-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-((4-fluorophenyl)(hydroxy)methyl)picolinic acid and (2S)-2-amino-4-methyl-pentanamide (CAN 687-51-4) as starting materials. MS (EI): m/e=360.1 [M+H]+.

reactant | 6-((4-fluorophenyl)(hydroxy)methyl)picolinic acid | FC1=CC=C(C=C1)C(C1=CC=CC(=N1)C(=O)O)O | C13H10FNO3
reactant | (2S)-2-amino-4-methyl-pentanamide | N[C@H](C(=O)N)CC(C)C | C6H14N2O
product | 6-[(4-Fluoro-phenyl)-hydroxy-methyl]-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=CC=C1)C(O)C1=CC=C(C=C1)F | C19H22FN3O3
